US09422331B2
Acetyl chloride (1.0 ml, 14.1 mmol) was added dropwise to a solution of [(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester (0.45 g, 1.03 mmol) in methanol at 0° C. and the reaction was allowed to warm to ambient temperature and stir for 2 h. The reaction was concentrated in vacuo to give (3S,4S)-5-(4-acetyl-benzoyl)-3-amino-4-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride which was used in the subsequent step without further purification (0.36 g, 100%).

reactant | Acetyl chloride | 14.1 mmol, 1.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | [(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | 1.03 mmol, 0.45 g | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N([C@H]1C)C(C1=CC=C(C=C1)C(C)=O)=O)C=CC=C2)=O)=O | C24H27N3O5
solvent | methanol | CO | CH4O
product | (3S,4S)-5-(4-acetyl-benzoyl)-3-amino-4-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride | Cl.C(C)(=O)C1=CC=C(C(=O)N2C3=C(NC([C@H]([C@@H]2C)N)=O)C=CC=C3)C=C1 | InChI=1S/C19H19N3O3.ClH/c1-11-17(20)18(24)21-15-5-3-4-6-16(15)22(11)19(25)14-9-7-13(8-10-14)12(2)23;/h3-11,17H,20H2,1-2H3,(H,21,24);1H/t11-,17-;/m0./s1
